US05665718
72 g (212 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at 80° for 16 hours in 150 ml (1.06 mol) of diisopropylamine and 300 ml of N,N-dimethylformamide. After evaporating the solvent the residue was dissolved in methylene chloride and the solution was extracted twice with 100 ml of 2N hydrochloric acid. The acidic phase was made alkaline with conc. sodium hydroxide solution and extracted with methylene chloride. The organic phase was dried over magnesium sulfate and evaporated. By chromatography of the residue on silica gel while eluting with ethyl acetate/methanol/acetic acid 95/3/2 and recrystallization from ethanol there were obtained 51.6 g (61%) of 3-(5-diisopropylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 117°-119°.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 212 mmol, 72 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
reactant | diisopropylamine | 1.06 mol, 150 ml | C(C)(C)NC(C)C | C6H15N
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 3-(5-diisopropylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 51.6 g, 61% | C(C)(C)N(C(C)C)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C21H26N6O2
